US07915411B2
1-[2-(4-Methoxy-phenyl)-vinyl-4-methyl-2-nitro-benzene
To a solution of 1-Bromo-4-methyl-2-nitro-benzene (0.76 g, 3.5 mmol), 1-methoxy-4-vinyl-benzene (0.59 g, 4.4 mmol), triethylamine (0.88 g, 8.8 mmol), tri-o-tolylphosphine (0.022 g) and palladium acetate (0.008 g) in N,N-dimethylformamide (7 mL) was placed in a high-pressure tube and purged with nitrogen for 10 mins. The tube was sealed and heated at 120° C. for 16 hours. The mixture was partitioned with water and ethyl acetate adjusting the pH to 3. The organic layer was washed with brine, dried (sodium sulfate) and filtered through a plug of silica. The filtrate was evaporated under vacuum and the residue was triturated with hexane/ethyl acetate (9:1) to provide the title compound (0.55 g, 58%).

reactant | 1-Bromo-4-methyl-2-nitro-benzene | 3.5 mmol, 0.76 g | BrC1=C(C=C(C=C1)C)[N+](=O)[O-] | C7H6BrNO2
reactant | 1-methoxy-4-vinyl-benzene | 4.4 mmol, 0.59 g | COC1=CC=C(C=C1)C=C | C9H10O
reactant | triethylamine | 8.8 mmol, 0.88 g | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 7 mL | CN(C=O)C | C3H7NO
catalyst | palladium acetate | 0.008 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | tri-o-tolylphosphine | 0.022 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
product | 2-(4-Methoxy-phenyl)-vinyl-4-methyl-2-nitro-benzene | 0.55 g, 58% | COC1=CC=C(C=C1)C=CC1=C(C=C(C=C1)C)[N+](=O)[O-] | C16H15NO3
